US08048901B2
2-((1R,3S)-[3-(5-Methyl-2-m-tolyloxazol-4-ylmethoxy)cyclohexyloxy]ethanol
2.3 g of 4-((1R,3S)-3-(allyloxycyclohexyloxymethyl)-5-methyl-2-m-tolyloxazole are dissolved in 65 ml of methyl tert-butyl ether and, at 0° C., 65 ml of water, 4.4 g of sodium metaperiodate and 3.3 ml of a 2.5% strength solution of osmium tetroxide in tert-butanol are added. After 20 min, the mixture is slowly warmed to 40° C. After 2 h, a further 700 mg of sodium metaperiodate were added and the mixture was stirred at 45° C. for 2 h. 140 ml of sat. sodium thiosulfate solution were added and the mixture was extracted with methyl tert-butyl ether. The combined organic phases are dried over sodium sulfate and the solvent is removed under reduced pressure. This gives 2-((1R,3S)-[3-(5-methyl-2-m-tolyloxazol-4-ylmethoxy)cyclohexyloxy]acetaldehyde as a colorless oil. C20H25NO4 (343.43), MS (ESI): 344 (M+H+). 2-((1R,3S)-[3-(5-Methyl-2-m-tolyloxazol-4-ylmethoxy)cyclohexyloxy]acetaldehyde is, as a crude product, taken up in 60 ml of dry methanol, and 300 mg of sodium borohydride are added. After 1.5 h, the mixture is quenched with 3 ml of acetone and concentrated. The residue is taken up in 50 ml of ethyl acetate/50 ml of sat. sodium bicarbonate solution, and the org. phase is dried over sodium sulfate. The solvent is removed under reduced pressure and the residue is then purified by flash chromatography on silica gel (n-heptane/ethyl acetate=1:3). This gives 1.6 g of 2-((1R,3S)-[3-(5-methyl-2-m-tolyloxazol-4-ylmethoxy)cyclohexyloxy]ethanol as a colorless oil. C20H27NO4 (345.44), MS (ESI): 346 (M+H+).

reactant | (1R,3S)-[3-(5-Methyl-2-m-tolyloxazol-4-ylmethoxy)cyclohexyloxy]acetaldehyde | CC1=C(N=C(O1)C=1C=C(C=CC1)C)CO[C@@H]1C[C@@H](CCC1)OCC=O | C20H25NO4
reactant | sodium borohydride | 300 mg | [BH4-].[Na+]
reactant | methanol | 60 ml | CO | CH4O
product | (1R,3S)-[3-(5-Methyl-2-m-tolyloxazol-4-ylmethoxy)cyclohexyloxy]ethanol | CC1=C(N=C(O1)C=1C=C(C=CC1)C)CO[C@@H]1CC(CCC1)O[C@H](C)O | C20H27NO4
